US07442710B2
Preparation of 2-Diethylamino-5-methanesulfonyl-benzoic acid
3.0 g of 2-fluoro-5-methanesulfonyl-benzoic acid (CA 247569-56-8; WO200501453) was dissolved in 30 ml of diethylamine and refluxed overnight. The reaction mixture was diluted with water, acidified by addition of diluted hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and concentrated to give the title compound as a slightly brownish solid. MS (m/e): 272.1 (M+H+; 100%)

reactant | 2-fluoro-5-methanesulfonyl-benzoic acid | 3.0 g | FC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7FO4S
reactant | hydrochloric acid | Cl | ClH
reactant | diethylamine | 30 ml | C(C)NCC | C4H11N
solvent | water | O | H2O
product | 2-Diethylamino-5-methanesulfonyl-benzoic acid | C(C)N(C1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C)CC | C12H17NO4S
